US03978071
A mixture of 96 g of ethyl 4-(chloroacetyl)phenylacetate, 200 ml of ethanol and 64 g of 2-aminopyridine is heated under reflux for 2 hours. The ethanol is distilled off under reduced pressure, and water is added to the residue. The mixture is extracted with benzene, and the extract is washed with water, dried and concentrated to give a brown oil. To the oil is added ether, and the crystalline precipitate is filtered off and recrystallized from a mixture of benzene and petroleum ether to give 44 g of ethyl 4-(imidazo[1,2-a]pyridin-2-yl)phenylacetate as pale brown crystals melting at 92°-93°C.

reactant | ethyl 4-(chloroacetyl)phenylacetate | 96 g | ClCC(=O)C1=CC=C(C=C1)CC(=O)OCC | C12H13ClO3
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | 2-aminopyridine | 64 g | NC1=NC=CC=C1 | C5H6N2
solvent | ether | CCOCC | C4H10O
product | ethyl 4-(imidazo[1,2-a]pyridin-2-yl)phenylacetate | 44 g | N=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)CC(=O)OCC | C17H16N2O2
